US06384065B1
In 40 ml of anhydrous tetrahydrofuran were dissolved 4.00 g of 4-isopropylphenol, 5.10 g of 1,4-dioxaspiro[4.5]decan-8-ol and 8.47 g of triphenylphosphine. Then, 14.1 g of 40% solution of diethyl azodicarboxylate in toluene was dropwise added at 0-5° C., and the resulting mixture was stirred at ambient temperature for 24 hours. The reaction mixture was poured into ice water and extracted with ethyl acetate. The organic layer was washed successively with water and saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduce pressure. Ethyl ether was added to the residue, the deposited insoluble matter was filtered off, and the filtrate was concentrated under reduced pressure. The residue thus obtained was mixed with 60 ml of anhydrous tetrahydrofuran and 40 ml of 6 mol/L hydrochloric acid and stirred at ambient temperature for 24 hours. The reaction mixture was poured in a mixture of water and ethyl acetate, and the organic layer was separated. The organic layer was washed successively with water and saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. Purification of the residue by column chromatography [eluents: toluene:ethyl acetate=20:1, followed by hexane:ethyl acetate=20:1] gave 2.40 g of 4-(4-isopropylphenoxy)-1-cyclohexanone as a colorless oily product.

reactant | 4-isopropylphenol | 4.00 g | C(C)(C)C1=CC=C(C=C1)O | C9H12O
reactant | 1,4-dioxaspiro[4.5]decan-8-ol | 5.10 g | O1CCOC12CCC(CC2)O | C8H14O3
reactant | triphenylphosphine | 8.47 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | hydrochloric acid | 6 mol/L, 40 ml | Cl | ClH
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 4-(4-isopropylphenoxy)-1-cyclohexanone | 2.40 g | C(C)(C)C1=CC=C(OC2CCC(CC2)=O)C=C1 | C15H20O2
